2107-02-05 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-4**] events:
   - decided to hold off on PICC since d/c'ed antibiotics
   - acheived better rate control for afib RVR
   - cardiac enzymes negative, completed ROMI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-4**] 01:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-2-4**] 08:00 AM
   Furosemide (Lasix) - [**2107-2-4**] 12:40 PM
   Diltiazem - [**2107-2-4**] 01:17 PM
   Morphine Sulfate - [**2107-2-4**] 01:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-5**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 91 (79 - 132) bpm
   BP: 117/68(79) {98/48(61) - 151/78(92)} mmHg
   RR: 23 (20 - 41) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 8 (3 - 19)mmHg
   Total In:
                                                                  1,042 mL
                                                                     70 mL
   PO:
                                                                     10 mL
   TF:
   IVF:
                                                                    332 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    240 mL
   Urine:
                                                                  1,925 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -994 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.36/56/68/32/3
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Rhonchorous: diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   255 K/uL
   8.2 g/dL
   83 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.0 mEq/L
   21 mg/dL
   102 mEq/L
   143 mEq/L
   26.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2107-2-4**]  12:46 AM
                             [**2107-2-4**]  02:53 AM
                             [**2107-2-4**]  01:23 PM
                             [**2107-2-4**]  01:29 PM
                             [**2107-2-5**]  03:30 AM
   WBC
   8.8
   10.9
   10.6
   Hct
   24.5
   27.5
   26.0
   Plt
   233
   258
   255
   Cr
   0.7
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   31
   33
   Glucose
   162
   83
   Other labs: PT / PTT / INR:14.8/32.1/1.3, CK / CKMB /
   Troponin-T:20//<0.01, Differential-Neuts:89.0 %, Lymph:6.4 %, Mono:3.8
   %, Eos:0.6 %, Lactic Acid:1.9 mmol/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   This is an 84yo F with a history of traumatic SAH ([**12-6**]), AF, CVA
   (99'), CAD who presents with cough, fever and hypoxia.
   # Hypoxia: Given history of fever, cough, recent hospital course/rehab
   course, ? of infiltrate on CXR, etiologies include HAP, CAP and viral
   etiologies.  Tachycardia, hypoxia and recent immobilization concerning
   for possible PE.  ACS less likely given lack of EKG changes and lack of
   chest pain, although pt is an elderly female and a diabetic.
   - given vanc, levaquin in ED,  switched to vanc/zosyn for HAP and
   aspiration coverage but had no white count and no fever and clinical
   picture appears more to be CHF is setting of afib, so stopped all abx
   [**2-4**]
   - increase WOB and tachypnea, likely in setting of pulm edema
   - diuresis with 40 mg IV lasix with goal of neg 1-1.5L; cont rate
   control of afib
   - sputum cxs, f/u blood cxs
   .
    # AF: Currently in AF.
   - occasionally has RVR associated with tachypnea and  diaphoresis,
   likely cause of hypoxia as mentioned above
   - cont rate control with IV dilt 10 mg as needed and increase PO dose
   from 30 mg to 60 mg qid
   - will discuss with Dr. [**Last Name (STitle) 1795**] her cardiologist whether or not digoxin
   should  be stopped and possibly amio should be started for better afib
   control
   # UTI: Pt asymptomatic but is poor historian, h/o recent gram+ UTI tx
   with cipro and now with +U/A.
   - f/u cxs
   - no tx needed, s/p 2 days of abx
   # CAD: Chest pain free, but pt is an elderly, diabetic female.
   - ruled out for MI with three neg sets of CK/troponins
   - cont statin, digoxin
   .
   # DM: Will hold metformin and glyburide.  Monitor FSBS and place on
   SSI.
   .
   # Anemia
 prior Fe studied consistent with anemia of chronic disease,
   will guiac stools
   .
   # Persistent Hypercarbia on ABGs
 unclear etiology, possibly
   underlying lung disease
   .
   # FEN: IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Bowel regimen, subcutaneous heparin
   .
   # Access: PIV, R IJ
   .
   # Code: Full, son is HCP
   .
   # Communication: Patient and son.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-2-4**] 12:00 AM
   18 Gauge - [**2107-2-4**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-05 09:56:00 Physician Attending Progress Note
Chief Complaint: Pneuonia, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   AFebrile. Has had intermittent rapid ventricular response with afib.
   Given lasix and diltiazem in the past several days. Dilt up to 30 X
   4/day. Overnight again became tachycardic; responded to 10 mg IV
   diltiazem. Diuresed for 1L negative fluid balance yesterday. Cardiac
   enzymes negative.
   24 Hour Events:
                                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-4**] 01:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-2-4**] 12:40 PM
   Diltiazem - [**2107-2-4**] 01:17 PM
   Morphine Sulfate - [**2107-2-4**] 01:33 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-5**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 124 (79 - 125) bpm
   BP: 142/67(85) {98/48(61) - 151/73(87)} mmHg
   RR: 35 (20 - 38) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 13 (3 - 19)mmHg
   Total In:
                                                                  1,042 mL
                                                                    146 mL
   PO:
                                                                     10 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    332 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    340 mL
   Urine:
                                                                  1,925 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -994 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.36/56/68/32/3
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Mild
   respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur throughout precordium radiating to
   the left axilla.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Dullness : Dullness half way up on left and
   at base on right), (Breath Sounds: Crackles : Bilaterally, No(t)
   Bronchial: , No(t) Wheezes : , Diminished: Diminished at left base,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   255 K/uL
   83 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.0 mEq/L
   21 mg/dL
   102 mEq/L
   143 mEq/L
   26.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2107-2-4**]  12:46 AM
                             [**2107-2-4**]  02:53 AM
                             [**2107-2-4**]  01:23 PM
                             [**2107-2-4**]  01:29 PM
                             [**2107-2-5**]  03:30 AM
   WBC
   8.8
   10.9
   10.6
   Hct
   24.5
   27.5
   26.0
   Plt
   233
   258
   255
   Cr
   0.7
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   31
   33
   Glucose
   162
   83
   Other labs: PT / PTT / INR:14.8/32.1/1.3, CK / CKMB /
   Troponin-T:20//<0.01, Differential-Neuts:89.0 %, Lymph:6.4 %, Mono:3.8
   %, Eos:0.6 %, Lactic Acid:1.9 mmol/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Imaging: CXR ([**2107-2-4**]): left effusion. Bibasilar densities, left greater
   than right.
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 URINARY TRACT INFECTION (UTI)
   CHF-diastolic-chronic
   PULMONARY HYPERTENSION
   ANEMIA
   AFIB
   Patient continues to be in mild respiratory distress with what is
   probably CHF due to diastolic dysfunction. Patient has pulmonary
   hypertension but recent CT did not show thromboembolic disease nor
   significant parenchymal lung disease (mild emphysema). When she has
   rapid ventricular rate, she appears to decompensate with respect to her
   CHF and respiratory distress. I would suggest stopping digoxin and
   increasing diltiazem. Consider possible amiodarone if diltiazem does
   not control her.
   Antibiotics stopped.
   Hct stable. No evidence of GI bleeding. Monitor stool guaiac.
   Etiology of chronic hypercapnia not clear.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2107-2-4**] 12:00 AM
   18 Gauge - [**2107-2-4**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2107-02-06 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - in AM had afib and tachypnea, responded to lasix and dilt
   - PO dilt increased from 30 to 60 then to 90 qid over the day
   - doing well, was going to be called out and had desat associated with
   afib with RVR to 120s-130s
   - quickly back to 5L NC and sats in the high 90s
   - CXR with L lobe white out
   - US probe showed approx 2 cm of fluid in L lung
   - CT to evaluate - showed bilateral pleural effusions with L lung
   collapse and mediastinal shift toward the L lung suggesting volume loss
   rather than just large effusion
   - chest PT, mucomyst neb to give her chance to cough up mucous plug,
   likely to need intubation and bronch tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-4**] 01:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-2-5**] 04:00 PM
   Diltiazem - [**2107-2-5**] 04:30 PM
   Insulin - Regular - [**2107-2-5**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-6**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 74 (74 - 124) bpm
   BP: 123/48(66) {105/41(60) - 142/67(85)} mmHg
   RR: 28 (24 - 41) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 11 (4 - 13)mmHg
   Total In:
                                                                    290 mL
                                                                     69 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    250 mL
   Urine:
                                                                  1,525 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,235 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Rhonchorous: diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   327 K/uL
   8.9 g/dL
   131 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.2 mEq/L
   19 mg/dL
   101 mEq/L
   142 mEq/L
   28.1 %
   12.3 K/uL
        [image002.jpg]
                             [**2107-2-4**]  12:46 AM
                             [**2107-2-4**]  02:53 AM
                             [**2107-2-4**]  01:23 PM
                             [**2107-2-4**]  01:29 PM
                             [**2107-2-5**]  03:30 AM
                             [**2107-2-5**]  04:52 PM
                             [**2107-2-5**]  09:00 PM
                             [**2107-2-6**]  03:00 AM
   WBC
   8.8
   10.9
   10.6
   12.3
   Hct
   24.5
   27.5
   26.0
   28.1
   Plt
   233
   258
   255
   327
   Cr
   0.7
   0.8
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   31
   33
   Glucose
   162
   83
   [**Telephone/Fax (3) 3973**]
   Other labs: PT / PTT / INR:14.8/32.1/1.3, CK / CKMB /
   Troponin-T:20//<0.01, Differential-Neuts:89.0 %, Lymph:6.4 %, Mono:3.8
   %, Eos:0.6 %, Lactic Acid:1.9 mmol/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   This is an 84yo F with a history of traumatic SAH ([**12-6**]), AF, CVA
   (99'), CAD who presents with cough, fever and hypoxia.
   # Hypoxia: Given history of fever, cough, recent hospital course/rehab
   course, ? of infiltrate on CXR, etiologies include HAP, CAP and viral
   etiologies.  Tachycardia, hypoxia and recent immobilization concerning
   for possible PE.  ACS less likely given lack of EKG changes and lack of
   chest pain, although pt is an elderly female and a diabetic.
   - given vanc, levaquin in ED,  switched to vanc/zosyn for HAP and
   aspiration coverage but had no white count and no fever and clinical
   picture appears more to be CHF is setting of afib, so stopped all abx
   [**2-4**]
   - increase WOB and tachypnea, likely in setting of pulm edema
   - diuresis with 40 mg IV lasix with goal of neg 1-1.5L; cont rate
   control of afib
   - sputum cxs, f/u blood cxs
   .
    # AF: Currently in AF.
   - occasionally has RVR associated with tachypnea and  diaphoresis,
   likely cause of hypoxia as mentioned above
   - cont rate control with IV dilt 10 mg as needed and increase PO dose
   from 30 mg to 60 mg qid
   - will discuss with Dr. [**Last Name (STitle) 1795**] her cardiologist whether or not digoxin
   should  be stopped and possibly amio should be started for better afib
   control
   # UTI: Pt asymptomatic but is poor historian, h/o recent gram+ UTI tx
   with cipro and now with +U/A.
   - f/u cxs
   - no tx needed, s/p 2 days of abx
   # CAD: Chest pain free, but pt is an elderly, diabetic female.
   - ruled out for MI with three neg sets of CK/troponins
   - cont statin, digoxin
   .
   # DM: Will hold metformin and glyburide.  Monitor FSBS and place on
   SSI.
   .
   # Anemia
 prior Fe studied consistent with anemia of chronic disease,
   will guiac stools
   .
   # Persistent Hypercarbia on ABGs
 unclear etiology, possibly
   underlying lung disease
   .
   # FEN: IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Bowel regimen, subcutaneous heparin
   .
   # Access: PIV, R IJ
   .
   # Code: Full, son is HCP
   .
   # Communication: Patient and son.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-4**] 12:00 AM
   20 Gauge - [**2107-2-5**] 05:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-06 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, CHF, atelectasis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had increased diltiazem over the night for rate control.
   Continues  to have episodes of tachycardia, one of which was
   assocaiated with Left lung atelectasis.
   Diuresed yesterday with 1.2L negative fluid balance.
   24 Hour Events:
 MULTI LUMEN - STOP [**2107-2-5**] 11:00 AM
   on arrival from ED-cleared by use on arrival by MD
 CALLED OUT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-4**] 01:45 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2107-2-5**] 04:30 PM
   Insulin - Regular - [**2107-2-5**] 09:00 PM
   Furosemide (Lasix) - [**2107-2-6**] 08:00 AM
   Other medications:
   Digoxin, heparin sc, atrovent nebs, insulin, lasix, PPI, diltiazem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-6**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 88 (74 - 107) bpm
   BP: 123/57(70) {105/41(60) - 140/64(81)} mmHg
   RR: 27 (24 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SA (Sinus Arrhythmia)
   CVP: 11 (7 - 12)mmHg
   Total In:
                                                                    290 mL
                                                                    170 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    305 mL
   Urine:
                                                                  1,525 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,235 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : Right, No(t) Hyperresonant: , Dullness : left
   hemithorax), (Breath Sounds: Clear : Right, No(t) Crackles : ,
   Bronchial: prominent bronchial breath sounds on left, No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   327 K/uL
   131 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.2 mEq/L
   19 mg/dL
   101 mEq/L
   142 mEq/L
   28.1 %
   12.3 K/uL
        [image002.jpg]
                             [**2107-2-4**]  12:46 AM
                             [**2107-2-4**]  02:53 AM
                             [**2107-2-4**]  01:23 PM
                             [**2107-2-4**]  01:29 PM
                             [**2107-2-5**]  03:30 AM
                             [**2107-2-5**]  04:52 PM
                             [**2107-2-5**]  09:00 PM
                             [**2107-2-6**]  03:00 AM
   WBC
   8.8
   10.9
   10.6
   12.3
   Hct
   24.5
   27.5
   26.0
   28.1
   Plt
   233
   258
   255
   327
   Cr
   0.7
   0.8
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   31
   33
   Glucose
   162
   83
   [**Telephone/Fax (3) 3973**]
   Other labs: PT / PTT / INR:14.8/32.1/1.3, CK / CKMB /
   Troponin-T:20//<0.01, Differential-Neuts:89.0 %, Lymph:6.4 %, Mono:3.8
   %, Eos:0.6 %, Lactic Acid:1.9 mmol/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Imaging: CXR ([**2107-2-6**]) - opacification of left hemithorax. Air
   bronchogram visible in left lung.
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 URINARY TRACT INFECTION (UTI)
   ATELECTASIS
   CHF-CHRONIC-DIASTOLIC
   Patient appears better today although O2 requirement has deteriorated a
   bit, likely related to the atelectasis. Exam now suggests that the
   airway is now open (bronchial breath sounds) but the lung remains
   atelectatic. if the lung has been down for 2 days, she may have lost
   some surfactant and need a high transpulmonary pressure to reopen the
   lung; patient is unable to cooperate with an incentive spirometer. Will
   ambulate out of bed. Repeat CXR this afternoon. If still atelectatic,
   may bronch with ETT and clear airways and do recruitment maneuver.
   Maintain negative fluid balance today.
   Antibiotics off. Afebrile.
   HR better controlled. Checking cardiac enzymes today.
   ICU Care
   Nutrition: NPO.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2107-2-4**] 12:00 AM
   20 Gauge - [**2107-2-5**] 05:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-02-07 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - bronch with clearance of copious secretions L main
   - intubated over bronch
   - endotracheal tube cx and BAL sent
   - repeat CXR showed improved atelectasis
   - remained on vent overnight for additional recruitment
   - RSBI this AM 90
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2107-2-6**] 08:00 AM
   Midazolam (Versed) - [**2107-2-6**] 04:38 PM
   Fentanyl - [**2107-2-6**] 04:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-7**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 87 (77 - 89) bpm
   BP: 122/52(68) {80/42(51) - 134/58(75)} mmHg
   RR: 23 (14 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    285 mL
                                                                  1,346 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    185 mL
                                                                  1,346 mL
   Blood products:
   Total out:
                                                                    733 mL
                                                                    140 mL
   Urine:
                                                                    733 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -448 mL
                                                                  1,206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 370 (370 - 370) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: ///32/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: decreased
   at L base, occasional rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   295 K/uL
   8.2 g/dL
   82 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.5 mEq/L
   22 mg/dL
   104 mEq/L
   144 mEq/L
   24.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2107-2-4**]  12:46 AM
                             [**2107-2-4**]  02:53 AM
                             [**2107-2-4**]  01:23 PM
                             [**2107-2-4**]  01:29 PM
                             [**2107-2-5**]  03:30 AM
                             [**2107-2-5**]  04:52 PM
                             [**2107-2-5**]  09:00 PM
                             [**2107-2-6**]  03:00 AM
                             [**2107-2-7**]  01:29 AM
   WBC
   8.8
   10.9
   10.6
   12.3
   8.6
   Hct
   24.5
   27.5
   26.0
   28.1
   24.5
   Plt
   233
   258
   255
   327
   295
   Cr
   0.7
   0.8
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   0.01
   TCO2
   31
   33
   Glucose
   162
   83
   [**Telephone/Fax (3) 3973**]
   82
   Other labs: PT / PTT / INR:16.7/37.2/1.5, CK / CKMB /
   Troponin-T:26//0.01, Differential-Neuts:89.0 %, Lymph:6.4 %, Mono:3.8
   %, Eos:0.6 %, Lactic Acid:1.9 mmol/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   This is an 84yo F with a history of traumatic SAH ([**12-6**]), AF, CVA
   (99'), CAD who presents with cough, fever and hypoxia.
   # Hypoxia: Likely combination of AF with RVR, volume overload and thick
   airway secretions causing atelectasis of L lung.
   - given vanc, levaquin in ED,  switched to vanc/zosyn for HAP and
   aspiration coverage but had no white count and no fever so stopped all
   abx [**2-4**].  Goal to extubate this AM (intubated for bronch yesterday)
   pending family discussion.
   - cont rate control of afib with dilt 90mg QID
   - had bronch yesterday with removal of copious secretions, L lung
   atelectasis improved
   - aggressive IS
   - f/u BAL/sputum cxs
   - RSBI this AM 90
   - will talk to family regarding goals of care (re: possibility of
   reintubation)
   - extubate pending family disucssion
   .
    # AF: Currently in AF, obtained much better control on diltiazem 90mg
   QID.
   - cont dilt 90mg QID
   - will discuss with Dr. [**Last Name (STitle) 1795**] her cardiologist whether or not digoxin
   should  be stopped and possibly amio should be started for better afib
   control
   # UTI: Pt asymptomatic but is poor historian, h/o recent gram+ UTI tx
   with cipro and now with +U/A.
   - urine cx negative
   .
   # CAD: Chest pain free, but pt is an elderly, diabetic female.
   - ruled out for MI with three neg sets of CK/troponins on presentation
   - CEs [**2-6**] given acute episode of diaphoresis, tachycardia were negative
   - cont statin, digoxin
   .
   # DM: Will hold metformin and glyburide.  Monitor FSBS and place on
   SSI.
   .
   # Anemia
 prior Fe studies consistent with anemia of chronic disease,
   will guaiac stools.  Hct down to 24.5.
   .
   # Persistent Hypercarbia on ABGs
 unclear etiology, likely underlying
   lung disease
   .
   # FEN: IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Bowel regimen, subcutaneous heparin
   .
   # Access: PIV
   .
   # Code: Full, son is HCP
   .
   # Communication: Patient and son.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-4**] 12:00 AM
   20 Gauge - [**2107-2-5**] 05:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-08 06:41:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   [**2-7**] Overnight Events:
   - extubation postponed until family meeting and code status discussed
   - placed OG tube
   - NS 500cc x3 for poor urine output
   - since required sedation and propofol causing mild hypotension and
   thus unable to uptitrate, switched to fent/versed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2107-2-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-2-7**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-8**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 70 (56 - 129) bpm
   BP: 118/43(62) {92/29(47) - 147/62(82)} mmHg
   RR: 19 (18 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,256 mL
                                                                  1,672 mL
   PO:
             TF:
             77 mL
   IVF:
                                                                  2,196 mL
                                                                  1,595 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    115 mL
   Urine:
                                                                  1,790 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    466 mL
                                                                  1,557 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 309 (309 - 367) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Thin, Anxious, intubated and sedated
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irreg irreg, no M,R,G
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: decreased
   at L base, occasional rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   284 K/uL
   8.3 g/dL
   131 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.5 mEq/L
   15 mg/dL
   104 mEq/L
   144 mEq/L
   25.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2107-2-4**]  12:46 AM
                             [**2107-2-4**]  02:53 AM
                             [**2107-2-4**]  01:23 PM
                             [**2107-2-4**]  01:29 PM
                             [**2107-2-5**]  03:30 AM
                             [**2107-2-5**]  04:52 PM
                             [**2107-2-5**]  09:00 PM
                             [**2107-2-6**]  03:00 AM
                             [**2107-2-7**]  01:29 AM
                             [**2107-2-8**]  04:32 AM
   WBC
   8.8
   10.9
   10.6
   12.3
   8.6
   7.9
   Hct
   24.5
   27.5
   26.0
   28.1
   24.5
   25.8
   Plt
   233
   258
   255
   327
   295
   284
   Cr
   0.7
   0.8
   0.9
   0.9
   0.9
   0.7
   TropT
   <0.01
   <0.01
   0.01
   TCO2
   31
   33
   Glucose
   162
   83
   [**Telephone/Fax (3) 3973**]
   82
   131
   Other labs: PT / PTT / INR:14.8/32.4/1.3, CK / CKMB /
   Troponin-T:26//0.01, Differential-Neuts:89.0 %, Lymph:6.4 %, Mono:3.8
   %, Eos:0.6 %, Lactic Acid:1.9 mmol/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   This is an 84yo F with a history of traumatic SAH ([**12-6**]), AF, CVA
   (99'), CAD who presents with cough, fever and hypoxia.
   # Hypoxia: Likely combination of AF with RVR, volume overload and thick
   airway secretions causing atelectasis of L lung.
   - intubated after bronch on [**2-6**] to evaluate L lung collapse, has high
   RISBIs and was not extubated yesterday.  Is doing well on PS and plan
   for extubation today.
   - has persistent LLL atelectasis on CXR today
   - sedation switched from propofol to fentanyl/versed after transient
   hypotension and low UO yesterday evening
   - continue rate control to avoid pulm edema, decreasing dilt today form
   90 to 60 because of transient hypotension
   - holding lasix today, will reevaluate fluid status in AM
   - aggressive IS when extubated
   - f/u BAL/sputum cxs
 all preliminarily negative so far
   - will talk to family regarding goals of care (re: possibility of
   reintubation)
   - extubate pending family discussion
   - given vanc, levaquin in ED,  switched to vanc/zosyn for HAP and
   aspiration coverage but had no white count and no fever so stopped all
   abx [**2-4**].
   .
    # AF: Currently in AF, obtained much better control on diltiazem 90mg
   QID.
   - decreasing dilt from 90 mg qid to 60 mg qid per above
   - do not know who cardiologist is, can consider switching dig to amio
   - checking dig level today to make sure no dig toxicity
   # UTI: Pt asymptomatic but is poor historian, h/o recent gram+ UTI tx
   with cipro and now with +U/A.
   - urine cx negative
   .
   # CAD: Chest pain free, but pt is an elderly, diabetic female.
   - ruled out for MI with three neg sets of CK/troponins on presentation
   - CEs [**2-6**] given acute episode of diaphoresis, tachycardia were negative
   - cont statin, digoxin
   .
   # DM: Will hold metformin and glyburide.  Monitor FSBS and place on
   SSI.
   .
   # Anemia
 prior Fe studies consistent with anemia of chronic disease,
   will guaiac stools.  Hct 25 today, stable.
   .
   # Persistent Hypercarbia on ABGs
 unclear etiology, likely underlying
   lung disease
   .
   # FEN: IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Bowel regimen, subcutaneous heparin
   .
   # Access: PIV
   .
   # Code: Full, son is HCP
   .
   # Communication: Patient and son.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2107-2-8**] 12:01 AM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-4**] 12:00 AM
   20 Gauge - [**2107-2-5**] 05:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-09 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family meeting with Dr. [**Last Name (STitle) 65**], patient made DNR/DNI
   - sedation turned off, did well on SBT
   - extubated in the PM
   - good sats on NC after extubation
   - held lasix on [**2-8**] and decreased dilt - readdress fluid status and HR
   tomorrow and consider readding lasix or changing dilt dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-2-8**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-2-9**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-9**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 84 (67 - 84) bpm
   BP: 142/66(82) {109/36(52) - 142/66(82)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,316 mL
                                                                    270 mL
   PO:
                                                                    120 mL
                                                                    200 mL
   TF:
                                                                    324 mL
   IVF:
                                                                  1,791 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                    220 mL
   Urine:
                                                                  1,905 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    411 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 313 (313 - 381) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Thin, Anxious, extubated
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irreg irreg, no M,R,G
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: decreased
   at L base, occasional rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   300 K/uL
   8.6 g/dL
   179 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.9 mEq/L
   12 mg/dL
   102 mEq/L
   144 mEq/L
   27.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2107-2-4**]  02:53 AM
                             [**2107-2-4**]  01:23 PM
                             [**2107-2-4**]  01:29 PM
                             [**2107-2-5**]  03:30 AM
                             [**2107-2-5**]  04:52 PM
                             [**2107-2-5**]  09:00 PM
                             [**2107-2-6**]  03:00 AM
                             [**2107-2-7**]  01:29 AM
                             [**2107-2-8**]  04:32 AM
                             [**2107-2-9**]  02:53 AM
   WBC
   8.8
   10.9
   10.6
   12.3
   8.6
   7.9
   8.6
   Hct
   24.5
   27.5
   26.0
   28.1
   24.5
   25.8
   27.0
   Plt
   233
   258
   255
   327
   295
   284
   300
   Cr
   0.7
   0.8
   0.9
   0.9
   0.9
   0.7
   0.6
   TropT
   <0.01
   <0.01
   0.01
   TCO2
   33
   Glucose
   162
   83
   [**Telephone/Fax (3) 3973**]
   82
   131
   179
   Other labs: PT / PTT / INR:14.6/28.0/1.3, CK / CKMB /
   Troponin-T:26//0.01, Differential-Neuts:89.0 %, Lymph:6.4 %, Mono:3.8
   %, Eos:0.6 %, Lactic Acid:1.9 mmol/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   This is an 84yo F with a history of traumatic SAH ([**12-6**]), AF, CVA
   (99'), CAD who presents with cough, fever and hypoxia.
   # Hypoxia: Likely combination of AF with RVR, volume overload and thick
   airway secretions causing atelectasis of L lung.
   - intubated after bronch on [**2-6**] to evaluate L lung collapse, extubated
   yesterday. - has persistent LLL atelectasis on CXR today
   - continue rate control to avoid pulm edema
   - aggressive IS
   - f/u BAL/sputum cxs
 all negative so far
   - given vanc, levaquin in ED,  switched to vanc/zosyn for HAP and
   aspiration coverage but had no white count and no fever so stopped all
   abx [**2-4**].
   - DNR/DNI per family
   .
    # AF: Currently in AF, obtained much better control initially on
   diltiazem 90mg QID.
   - switched to diltiazem 60mg QID yesterday for hypotension -> stable
   overnight
   - do not know who cardiologist is, can consider switching dig to amio
   - checking dig level today to make sure no dig toxicity
   # UTI: Pt asymptomatic but is poor historian, h/o recent gram+ UTI tx
   with cipro and now with +U/A.
   - urine cx negative
   .
   # CAD: Chest pain free, but pt is an elderly, diabetic female.
   - ruled out for MI with three neg sets of CK/troponins on presentation
   - CEs [**2-6**] given acute episode of diaphoresis, tachycardia were negative
   - cont statin, digoxin
   .
   # DM: Will hold metformin and glyburide.  Monitor FSBS and place on
   SSI.
   .
   # Anemia
 prior Fe studies consistent with anemia of chronic disease,
   will guaiac stools.  Hct 25 today, stable.
   .
   # Persistent Hypercarbia on ABGs
 unclear etiology, likely underlying
   lung disease
   .
   # FEN: IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Bowel regimen, subcutaneous heparin
   .
   # Access: PIV
   .
   # Code: Full, son is HCP
   .
   # Communication: Patient and son.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-4**] 12:00 AM
   20 Gauge - [**2107-2-5**] 05:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: